US09447114B2
To a solution of 3-(5-methyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoic acid (330 mg, 1.17 mmol) in DMF (6 mL) was added CH3I (332 mg, 2.33 mmol) followed by K2CO3 (322 mg, 2.33 mmol). The reaction was heated in a sealed tube at 40° C. for 4 h, cooled to RT then diluted with EA (20 mL) and water (20 mL). The organic layer was washed with brine (10 mL), dried over Na2SO4 and concentrated to a residue which was purified by chromatography eluted with DCM/MeOH (50:1) to give methyl 3-(1,5-dimethyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate (210 mg, 63.6% yield) as a yellow solid. LCMS: MH+ 283 and TR=1.253 min.

reactant | 3-(5-methyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoic acid | 1.17 mmol, 330 mg | CC1=CSC=2NC(N(C(C21)=O)CCC(=O)O)=O | C10H10N2O4S
reactant | CH3I | 2.33 mmol, 332 mg | CI | CH3I
reactant | K2CO3 | 2.33 mmol, 322 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EA | 20 mL | CC(OCC)=O | C4H8O2
solvent | water | 20 mL | O | H2O
product | methyl 3-(1,5-dimethyl-2,4-dioxo-1,2-dihydrothieno[2,3-d]pyrimidin-3(4H)-yl)propanoate | 210 mg, 63.6% yield | CN1C(N(C(C2=C1SC=C2C)=O)CCC(=O)OC)=O | C12H14N2O4S
